US07074794B2
5,6-Dichloronicotinic acid (4.90 g) was dissolved in ethanol (40 mL), and thionyl chloride (2.0 mL) was added thereto under ice-cooling. The mixture was refluxed for 1.5 hr. The reaction mixture was concentrated under reduced pressure, and saturated aqueous sodium hydrogencarbonate solution was added to the residue. The mixture was extracted with ethyl acetate. The extract was dried and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography to give ethyl 5,6-dichloronicotinate (4.85 g) as a white solid.

reactant | 5,6-Dichloronicotinic acid | 4.90 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | thionyl chloride | 2.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | ethyl 5,6-dichloronicotinate | 4.85 g | ClC=1C(=NC=C(C(=O)OCC)C1)Cl | C8H7Cl2NO2
